US04668727
N,N-bis-(p-methoxycarbonylbenzyl)hydroxylamine
To a stirred suspension of 1.11 grams of hydroxylamine hydrochloride and 6.78 grams of anhydrous sodium carbonate in 20 ml of dry N,N-dimethylformamide (DMF) is added a solution of 7.49 grams of p-methoxycarbonylbenzyl bromide in 30 ml of dry DMF. The mixture is stirred at ambient temperature for 24 hours. Insoluble material present is removed by filtration and the filtrate is concentrated. The above-named product is obtained from the resulting residue by preparative liquid chromatography as 2.8 grams of a white solid, melting at 129°-131° C.

reactant | hydroxylamine hydrochloride | 1.11 grams | Cl.NO
reactant | sodium carbonate | 6.78 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-methoxycarbonylbenzyl bromide | 7.49 grams | COC(=O)C1=CC=C(CBr)C=C1 | C9H9BrO2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | DMF | 30 ml | CN(C=O)C | C3H7NO
product | N,N-bis-(p-methoxycarbonylbenzyl)hydroxylamine | 2.8 grams | COC(=O)C1=CC=C(CN(O)CC2=CC=C(C=C2)C(=O)OC)C=C1 | C18H19NO5
